Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Norvasc / Hydrochlorothiazide / simvastatin / 
azithromycin
 
Attending: ___
 
Chief Complaint:
Abnormal sodium level, Confusion

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ female with history of 
hypertension,
hypothyroidism, prior episode of Campylobacter septicemia, who
presented with a complaint of confusion and hyponatremia.

Patient is very poor historian given altered mental status but
reported that for the past several weeks she has felt very
sluggish and confused and has had difficulty writing and
speaking. She had labs collected on the beginning of ___ 
that
were notable for hyponatremia that has persisted, for which she
was referred to the emergency department for evaluation. Patient
reported low back pain for the past several months for which she
has been evaluated by her primary care physician. She has no
history of cancer, no recent changes to her medications. She
reported she has been eating normally but has been told in the
past that she may be eating less than she should. Patient lives
alone. She denied any recent fevers or chills, chest pain or 
SOB.
Per review of records, she has been falling at home. And
according to one note, she reported drinking excessive water.

In the ED, initial vitals:  T 97.7 HR 68, BP 191/96 RR 18 O2 sat
100% RA 

- Exam notable for:  
Appears largely euvolemic with moist mucous membranes. AOx3,
however affect noted to be labile at this time. PERRL. Speech
clear. +dizziness subsided at this time per patient. Unlabored
breathing, NAD noted, speaking full sentences without 
difficulty.

- Labs notable for:
WBC 7  H/H 12.___.8  platelets 303 
Na 130 -> 128
K 4.6 creatinine 0.7
Ca: 11.0 Mg: 2.0 P: 3.0
TSH:1.1 Free-T4:1.8

Other Urine Chemistry:
Creat:20 
Na:38 
Osmolal:212

UA: WBC 13, few bacteria

- Imaging notable for:  
Head CT w/o contrast: No acute intracranial hemorrhage.

- Patient given:  NPO as diet 

On the floor, patient is sitting comfortably in bed. She is very
talkative, with a lot of emphasis on her back pain for the last
few months. She has insight that she is confused and not 
herself.
She feels she cannot talk as coherently as she used to, and that
she has been forgetful. She reported low back pain and chronic
numbness in her legs, with no weakness, urinary or bowel
retention/incontinence.
 

 
Past Medical History:
ALOPECIA                                                        
ANXIETY                                                         
BLEPHARITIS                                                     
CAROTID ARTERY STENOSIS                                         
U/S ___. refuse chol med. bilat 40% stenosis                   
DEPRESSION AND ANXIETY                                          
ECZEMA                                                          
FIRST DEGREE ATRIOVENTRICULAR BLOCK                             
HIATAL HERNIA                                                   
HYPERCHOLESTEROLEMIA - refusing tx
HYPERTENSION                                                    
HYPOTHYROIDISM                                                  
LICHEN SCLEROSUS                                                
OSTEOARTHRITIS OF CX SPINE                                      
OSTEOPENIA                                                      
SCOLIOSIS                                                       
SEBORRHEIC DERMATITIS                                            

ANTEROLISTHESIS OF L4-5 GRADE 2                                 
HYPONATREMIA                                                    
MILDLY DILATED ASCENDING AORTA ON ECHO                          
MITRAL VALVE PROLAPSE WITHOUT REGURGITATION.                    
H/O CAMPYLOBACTER ENTERITIS ASSOCIATED WITH SEPTICEMIA          
treated with azithromycin and change to Levaquin for a total of 
2 weeks of  therapy due to azithromycin rash        
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Admission exam: 

VITALS:  98.0 PO 159 / 94 R Lying 79 18 100 RA 
General: Alert and orientedx3, no acute distress, speaks full
sentences but sometimes her thought are not coherent, forgets
what she was talking about and frequently say "what was I 
talking
about" 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally.   

Discharge exam: 

GENERAL: Elderly female, pleasant, NAD.
HEAD: NC/AT.
NECK: Supple.
CARDIAC: RRR, S1S2 w/o m/r/g.
RESPIRATORY: CTABL.
ABDOMEN: Soft, NT, +BS. 
EXTREMITIES: Warm, no edema. 
NEUROLOGIC: A/Ox3 but cannot repeat months of year backwards w/o
prompting. MOCA 14. Tangential and at times difficult to follow. 


 
Pertinent Results:
___ 03:33PM BLOOD WBC-7.0 RBC-3.80* Hgb-12.7 Hct-36.8 
MCV-97 MCH-33.4* MCHC-34.5 RDW-11.8 RDWSD-42.2 Plt ___
___ 10:10AM BLOOD WBC-5.3 RBC-3.80* Hgb-12.7 Hct-38.1 
MCV-100* MCH-33.4* MCHC-33.3 RDW-12.2 RDWSD-45.3 Plt ___
___ 03:33PM BLOOD Glucose-105* UreaN-20 Creat-0.7 Na-130* 
K-4.6 Cl-91* HCO3-27 AnGap-12
___ 10:10AM BLOOD Glucose-180* UreaN-22* Creat-0.8 Na-132* 
K-4.1 Cl-91* HCO3-26 AnGap-15
___ 03:33PM BLOOD Calcium-11.0* Phos-3.0 Mg-2.0
___ 10:10AM BLOOD Calcium-10.1 Phos-3.2 Mg-2.0
___ 03:30PM BLOOD VitB12-924*
___ 03:33PM BLOOD Osmolal-274*
___ 03:33PM BLOOD TSH-1.1
___ 03:33PM BLOOD Free T4-1.8*
___ 03:33PM BLOOD Cortsol-12.0

 
 
___ 7:27 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RPR w/check for Prozone (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

CT Head ___
  
FINDINGS:  
  
There is no evidence of acute large territorial infarction, 
hemorrhage, edema, 
or new mass effect.  The ventricles and sulci are prominent, 
significantly 
more so as compared to the prior study ___ years prior, 
consistent with 
involutional changes.  There is extensive periventricular and 
subcortical 
white matter hypodensity, which is nonspecific, but likely 
represents chronic 
microvascular ischemic changes, significantly increased since 
the prior study, 
___ years prior.  There are calcifications of bilateral carotid 
siphons and 
right vertebral artery. 
  
No acute fracture is seen.  There are degenerative changes at 
the 
craniocervical junction.  The paranasal sinuses, mastoid air 
cells, and middle 
ear cavities are clear. The patient is status post bilateral 
lens 
replacements.. 
  
IMPRESSION:  
  
No acute intracranial hemorrhage. 

 
Brief Hospital Course:
PATIENT SUMMARY:
================
Ms. ___ is a ___ w/ essential HTN, hypothyroidism, 
prior episode of Campylobacter septicemia, osteoarthritis, 
scoliosis, anxiety, depression, mitral valve prolapse, carotid 
artery stenosis who presented from clinic after her PCP noted 
hyponatremia (128) & confusion. 

Her sodium was 130 on admission and improved overnight w/ NPO to 
134.  Her urine electrolytes were consistent with SIADH. 

On neurological exam, she was A/Ox3 but scored 14 on MOCA. 
Further work-up revealed TSH 1.1, RPR non-reactive, B12 924.  
Blood cultures were negative.  UA had WBC 13, LARGE ___, FEW 
bacteria, UCX w/ mixed flora. She noted no UTI symptoms.

Further collateral about the patient's mental status was 
obtained from her son. She has been having periods of confusion 
in the past including ___ years ago when she became lost driving 
to her son's house- a familiar route. The patient did not 
complete her taxes this year. Her house is cluttered and she has 
been keeping old food in her refrigerator.

CT Head showed the following: "No evidence of acute large 
territorial infarction, hemorrhage, edema, or new mass effect.  
The ventricles and sulci are prominent, significantly more so as 
compared to the prior study ___ years prior, consistent with 
involutional changes.  There is extensive periventricular and 
subcortical white matter hypodensity, which is nonspecific, but 
likely represents chronic microvascular ischemic changes, 
significantly increased since the prior study, ___ years prior.  
There are calcifications of bilateral carotid siphons and right 
vertebral artery. No acute fracture is seen.  There are 
degenerative changes at the craniocervical junction.  The 
paranasal sinuses, mastoid air cells, and middle ear cavities 
are clear. The patient is status post bilateral lens 
replacements." NRI revealed "extensive confluent areas of 
periventricular white matter FLAIR hyperintensities are 
suggestive of subcortical arteriosclerotic encephalopathy in the 
setting of global atrophy."

Ultimately, the patient's subacute decline in mental status was 
attributed to underlying progressive dementia, possibly due to 
vascular dementia. Pravastatin was added. Neurology was 
consulted and advised outpatient neurocognitive evaluation. In 
the meantime, she was discharged to rehab with anticipated stay 
<30 days. 

MEDICATION CHANGES:
====================
[ ] Added amlodipine 5mg PO QD.
[ ] Added pravastatin 20mg PO QD.
[ ] Added senna & polyethylene glycol as she was constipated. 

TRANSITIONAL ISSUES:
====================
[ ] Sodium 132 on discharge.  Urine electrolytes consistent w/ 
SIADH.  Periodic repeat BMP. 
[ ] Intermittently hypertensive on admission w/ SBP > 180.  
Anti-HTN on admission: metoprolol Tartrate 75 mg PO BID + 
valsartan 320 mg PO DAILY, added amlodipine 5 mg PO/NG DAILY and 
achieved better controlled w/ goal SBP < 150. If control remains 
an issue would increase amlodipine to 10mg, or consider changing 
metoprolol to carvedilol.  BP control should be strictly 
emphasized given CT findings of likely vascular changes meaning 
this patient likely has a component of vascular dementia.
[ ] Started pravastatin given vascular changes on CT suggestive 
of cerebrovascular disease.  History of myalgias secondary to 
simvastatin.  Please monitor for recurrence.  
[ ] Constipated on admission but did have a BM prior to d/c.  
Added senna & polyethylene glycol.  Please assess for BM as 
constipation may exacerbate her dementia.
[ ] Formal dementia evaluation w/ ___ Cognitive Neurology ___ at 1 ___ w/ ___ ___.
[ ] Ongoing reassessment of home safety as patient may require 
services in order to be safe at home, even after rehab given her 
cognitive status. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 320 mg PO DAILY 
2. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID:PRN 
affected area 
3. Fluocinonide 0.05% Cream 1 Appl TP BID:PRN affected area 
behind the ears 
4. Metoprolol Tartrate 75 mg PO BID 
5. diclofenac sodium 1 % topical PRN 
6. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 600-400 
unit oral DAILY 
7. Aspirin 81 mg PO DAILY 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Polyethylene Glycol 17 g PO DAILY constipation  
3.  Pravastatin 20 mg PO QPM  
4.  Senna 8.6 mg PO BID  
5.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
6.  Aspirin 81 mg PO DAILY  
7.  Calcitrate-Vitamin D (calcium citrate-vitamin D3) 600-400 
unit oral DAILY  
8.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID:PRN 
affected area  
9.  Fluocinonide 0.05% Cream 1 Appl TP BID:PRN affected area 
behind the ears  
10.  Levothyroxine Sodium 50 mcg PO DAILY  
11.  Metoprolol Tartrate 75 mg PO BID  
12.  Valsartan 320 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
altered mental status
hyponatremia
falls

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___ and family, 

Thank you for allowing us to care for you at ___.

WHY WERE YOU ADMITTED:
-You were confused.
-We found that the amount of sodium in your blood was too low. 

WHAT HAPPENED WHEN YOU WERE HERE:
-We did several blood tests to see why you were confused and 
everything was normal. 
-We did a CT scan and an MRI of your brain. The final read of 
the MRI is pending currently, but your primary care doctor will 
be able to follow it up. 
-You worked with our Physical Therapist who thought that you 
would be safest if you went to a rehab facility. 

WHAT YOU SHOULD DO WHEN YOU GO HOME:
-Please return to the hospital with any fevers, chills, chest 
pain, shortness of breath, abdominal pain, pain with urination, 
falls, or anything else that concerns you. 
-Continue to take all of your medications and follow-up with 
your appointments.  

We wish you the best!

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___